US09120823B2
A mixture of 3-amino-5-trifluoromethylpyridin-2-thiol (0.45 g), 3-chloropyridin-2-carboxylic acid (0.39 g), WSC (0.67 g), HOBt (31 mg) and pyridine (4 ml) was stirred at room temperature for 12 hours. To the reaction mixture was added water, and the mixture was filtered to collect a solid. The resulting solid was washed with water, followed by n-hexane, and dried to give 3-chloropyridin-2-carboxylic acid (2-mercapto-5-trifluoromethylpyridin-3-yl)-amide (0.45 g), which is hereinafter referred to as “intermediate compound (M20-11)”.

reactant | 3-amino-5-trifluoromethylpyridin-2-thiol | 0.45 g | NC=1C(=NC=C(C1)C(F)(F)F)S | C6H5F3N2S
reactant | 3-chloropyridin-2-carboxylic acid | 0.39 g | ClC=1C(=NC=CC1)C(=O)O | C6H4ClNO2
reactant | WSC | 0.67 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 31 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | water | O | H2O
solvent | pyridine | 4 ml | N1=CC=CC=C1 | C5H5N
product | 3-chloropyridin-2-carboxylic acid (2-mercapto-5-trifluoromethylpyridin-3-yl)-amide | 0.45 g | SC1=NC=C(C=C1NC(=O)C1=NC=CC=C1Cl)C(F)(F)F | C12H7ClF3N3OS
